US08030305B2
A solution of 6-iodo-quinazoline (0.500 g, 1.95 mmol), malonic acid diethyl ester (0.93 g, 5.81 mmol), copper iodide (0.019 g, 0.097 mmol), biphenyl-2-ol (0.033 g, 0.195 mmol) and cesium carbonate (0.953 g, 2.93 mmol) in THF (5 mL) was heated to 70° C. in a sealed tube for 24 hours. The solution was then cooled to room temperature, saturated ammonium chloride was added and the crude product was extracted from ethyl acetate. The product was purified via silica gel column chromatography in hexane:ethyl acetate (1:1) to give 0.39 g (80%) of 2-quinazolin-6-yl-malonic acid diethyl ester. 1H NMR (400 MHz, CDCl3) δ 9.37 (bs, 2H), 7.96 (m, 3H), 4.78 (s, 1H), 4.18 (m, 4H), 1.19 (m, 6H).

reactant | 6-iodo-quinazoline | 1.95 mmol, 0.500 g | IC=1C=C2C=NC=NC2=CC1 | C8H5IN2
reactant | malonic acid diethyl ester | 5.81 mmol, 0.93 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | biphenyl-2-ol | 0.195 mmol, 0.033 g | C=1(C(=CC=CC1)O)C1=CC=CC=C1 | C12H10O
reactant | cesium carbonate | 2.93 mmol, 0.953 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.097 mmol, 0.019 g | [Cu](I)I
product | 2-quinazolin-6-yl-malonic acid diethyl ester | 0.39 g, 80% | C(C)OC(C(C(=O)OCC)C=1C=C2C=NC=NC2=CC1)=O | C15H16N2O4
